US05110818
Xanthine (2,6-dihydroxy-9H-purine) is converted by reaction with phosphorus oxytrichloride in accordance with G. B. Elion and G. H. Hitchings, J. Am. Chem. Soc. 78, 3508 (1956) into the 2,6-dichloro-9H-purine and the latter is reacted with N,N-dimethylamine in accordance with J. A. Montgomery and L. B. Holum, J. Am. Chem. Soc. 80, 404 (1958) to form 2-chloro-6-(N,N-dimethylamino)-9H-purine.

reactant | Xanthine | N1C(=O)NC=2N=CNC2C1=O | C5H4N4O2
reactant | phosphorus oxytrichloride | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2,6-dichloro-9H-purine | ClC1=NC(=C2N=CNC2=N1)Cl | C5H2Cl2N4
reactant | N,N-dimethylamine | CNC | C2H7N
product | 2-chloro-6-(N,N-dimethylamino)-9H-purine | ClC1=NC(=C2N=CNC2=N1)N(C)C | C7H8ClN5
